US04496567
A mixture of 4-phenylbutylamine (2.7 g), 5-(6-methyl-3-pyridylmethyl)-2-methylthio-4-pyrimidone (3.0 g) and dry pyridine (20 ml) was heated under reflux for 40 hours, and evaporated to dryness. Water was added to the residue and the pH of the mixture was adjusted to 7. The solid was filtered off and was recrystallized from aqueous ethanol to give 2-(4-phenylbutylamino)-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone hydrate m.p. 151°-152°.

reactant | 4-phenylbutylamine | 2.7 g | C1(=CC=CC=C1)CCCCN | C10H15N
reactant | 5-(6-methyl-3-pyridylmethyl)-2-methylthio-4-pyrimidone | 3.0 g | CC1=CC=C(C=N1)CC=1C(NC(=NC1)SC)=O | C12H13N3OS
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-(4-phenylbutylamino)-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone hydrate | O.C1(=CC=CC=C1)CCCCNC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | InChI=1S/C21H24N4O.H2O/c1-16-10-11-18(14-23-16)13-19-15-24-21(25-20(19)26)22-12-6-5-9-17-7-3-2-4-8-17;/h2-4,7-8,10-11,14-15H,5-6,9,12-13H2,1H3,(H2,22,24,25,26);1H2
